US08071388B2
A solution of sodium 4-aminonaphthalene-1-sulfonate (2.45 g, 10 mmol) in H2O (15 mL) was added a solution of NaNO2 (0.70 g, 10 mmol) in H2O (2 mL) at 10-15° C. The solution was then added to a cold solution of conc. H2SO4 (0.54 g, 5.5 mmol) in 0.5 mL of H2O. The temperature was maintained below 10° C. and the mixture was stirred for 1.5 h after the addition was complete. The mixture was then added dropwise to a cold solution of SnCl2 (3.8 g, 17 mmol) in 2.5 mL of conc. HCl and 1.5 ml of H2O. The reaction temperature was kept below 10° C. and allowed to sit onemoght. It was filtered and washed thoroughly with H2O. The cake was removed twice from the Buchner funnel and suspended in H2O and filtered. The solid obtained was dried under vacuum to give 1.4 g of 4-hydrazinylnaphthalene-1-sulfonic acid (59%). The material was used directly for next step. A solution of 4-hydrazinylnaphthalene-1-sulfonic acid (0.7 g, 2.9 mmol) in 3 ml of HOAc was added 3-methylbutan-2-one (0.5 ml, 1.5 eq), NaOAc (0.47 g, 2.0 eq.). The mixture was stirred at 110° C. for 3.5 h. After cooling and addition of ether, the precipitate was filtered to give 700 mg. The solid was dissolved in DCM and purified by flash chromatography on SiO2 using 10% MeOH in DCM to give 273 mg of product. The mother liquor was concentrated and was also purified by flash chromatography on silica gel to give additional 372 mg of product. The overall yield was 77%. 1H NMR (DMSO) δppm: 8.8 (dd, 1H), 8.4 (dd, 1H), 8.0 (s, 1H), 7.5 (m, 2H), 3.1 (s, 5H), 2.3 (s, 4H), 1.3 (s, 6H). LC-MS: 288.2 [M−H].

reactant | sodium 4-aminonaphthalene-1-sulfonate | 10 mmol, 2.45 g | NC1=CC=C(C2=CC=CC=C12)S(=O)(=O)[O-].[Na+]
reactant | NaNO2 | 10 mmol, 0.70 g | N(=O)[O-].[Na+]
reactant | H2SO4 | 5.5 mmol, 0.54 g | OS(=O)(=O)O | H2O4S
reactant | SnCl2 | 17 mmol, 3.8 g | Cl[Sn]Cl
solvent | H2O | 15 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
solvent | H2O | 0.5 mL | O | H2O
solvent | HCl | 2.5 mL | Cl | ClH
solvent | H2O | 1.5 ml | O | H2O
product | 4-hydrazinylnaphthalene-1-sulfonic acid | 1.4 g, 59% | N(N)C1=CC=C(C2=CC=CC=C12)S(=O)(=O)O | C10H10N2O3S
